US04317880
Food-grade sucrose, 250 g was dissolved in 250 ml of water and magnesium chloride was added to a concentration of 0.005 M. The pH was adjusted to 6.5 and maintained at this value by the addition of 0.5 N sodium hydroxide solution was needed. To the sucrose solution was added 7500 units of fructosyl transferase enzyme preparation, obtained as in Example 1, and 5000 units of glucose isomerase enzyme preparation, obtained as described by Cory, U.S. Pat. No. 4,077,842. After the mixture had been stirred at 55° C. for 24 hours, the enzyme reaction was stopped by placing the material in a boiling water bath for 10 minutes. The resulting syrup was then analyzed by high pressure liquid chromatography. The results of two different runs using different batches of enzymes are given in Table I.

reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | magnesium chloride | [Cl-].[Mg+2].[Cl-]
reactant | sodium hydroxide | 0.5 N | [OH-].[Na+]
solvent | water | 250 ml | O | H2O
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
